US07786165B2
(4-{[tert-butyl(dimethyl)silyl]oxy}-2,6-dimethylphenyl)boronic acid
To a solution (250 mL) of (4-bromo-3,5-dimethylphenoxy)(tert-butyl)dimethylsilane (39.2 g, 124 mmol) in tetrahydrofuran was added n-butyllithium hexane solution (1.6 M, 90.0 mL, 144 mmol) under stirring at −78° C. The reaction mixture was stirred at the same temperature for 2 hr, and triisopropyl borate (40.0 mL, 173 mmol) was added. The mixture was allowed to warm to room temperature and stirred for 3 hr. To the reaction mixture was added 2 M hydrochloric acid (180 mL), and the mixture was stirred for 6 hr. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=1/4) to give the title compound (18.6 g, yield 53%) as pale-yellow prism crystals.

reactant | (4-bromo-3,5-dimethylphenoxy)(tert-butyl)dimethylsilane | 124 mmol, 250 mL, 39.2 g | BrC1=C(C=C(O[Si](C)(C)C(C)(C)C)C=C1C)C | C14H23BrOSi
reactant | n-butyllithium hexane | 144 mmol, 1.6 M, 90.0 mL | CCCCCC.C(CCC)[Li]
reactant | triisopropyl borate | 173 mmol, 40.0 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 2 M, 180 mL | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (4-{[tert-butyl(dimethyl)silyl]oxy}-2,6-dimethylphenyl)boronic acid | 18.6 g, yield 53% | [Si](C)(C)(C(C)(C)C)OC1=CC(=C(C(=C1)C)B(O)O)C | C14H25BO3Si
